US06479424B1
5-Phenylindene
A dry 100 mL three-neck round bottom flask equipped with a condenser, magnetic stir bar, thermometer, and a nitrogen inlet was charged with 5-bromoindene (99+% purity, 9.65 g, 50 mmol), diethyl ether (anhydrous, 60 mL), and phenylmagnesium bromide (18.0 mL 3M in diethyl ether, 54 mmol). The mixture was chilled to 10° C. and [1,2-bis(diphenylphosphino)ethane]nickel(II) chloride (0.1 g, 0.2 mmol) was added. The reaction mixture was warmed gradually to reflux. As the reaction progressed the clear solution became turbid from the precipitation of magnesium bromide by-product. After 4 hours at reflux the reaction mixture was quenched in chilled 5% aqueous HCl (200 mL). Additional diethyl ether (100 mL) was added and the organic phase was separated, water washed, and dried over anhydrous magnesium sulfate. Evaporation of diethyl ether followed by vacuum distillation (90° C./0.5 mm Hg) gave 5-phenylinene (8.4 g, 97% purity by GC) as pale yellow crysta1s. 1HNMR (CD2Cl2, 500 MHz) 50:50 mixture of isomers; δ7.72 (s, 1H); 7.62 (m, 5H); 7.52 (t, J=8 Hz, 2H); 7.43 (m, 6H); 7.32 (m, 2H); 6.93 (m, 2H); 6.61 (m, 2H); 3.47 (s, 2H); 3.44 (s, 2H).

reactant | 5-bromoindene | 50 mmol, 9.65 g | BrC=1C=C2C=CCC2=CC1 | C9H7Br
reactant | phenylmagnesium bromide | 54 mmol, 3M, 18.0 mL | C1(=CC=CC=C1)[Mg]Br
catalyst | [1,2-bis(diphenylphosphino)ethane]nickel(II) chloride | 0.2 mmol, 0.1 g | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Ni]Cl
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | 5-Phenylindene | C1(=CC=CC=C1)C=1C=C2C=CCC2=CC1 | C15H12
